US07799326B2
Method for Detection of CSA/Cat K Complex Formation and Application for High-Through Put Screening (HTS) of Complex Formation Inhibitors
20 mg cyanogen bromide (CNBr) dissolved in 200 μl deionized water were added to 1 ml of 30 mg/ml chondroitin 4-sulfate (CSA). The pH was adjusted to pH 11 by addition of 5 M NaOH. Activated CSA is applied to a PD-10 column and eluded with 200 mM sodium borate buffer, pH 8.0. CSA fractions were directly dropped into 400 μl of 10 mg/ml fluoresceinamine in 200 mM sodium borate buffer, pH 8.0. The mixture was kept overnight at 4° C. for the coupling reaction. Subsequently, the mixture was concentrated to 1 ml using a SpeedVac concentrator and purified on a PD-10 column and eluded by 50 mM sodium acetate buffer, pH 5.5. Fluoresceinamine-labeled CSA (FL-CSA) fractions were collected and their concentration was determined using the Blyscan glycosaminoglycan assay kit (Biocolor Ltd., Newtown Abbey, Northern Ireland).

reactant | cyanogen bromide | 20 mg | N#CBr | CBrN
reactant | chondroitin 4-sulfate | CC(=O)N[C@@H]1[C@H]([C@H]([C@H](O[C@H]1O)OS(=O)(=O)O)O)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C(=O)O)O)O)O | C13H21NO15S
reactant | NaOH | 5 M | [OH-].[Na+]
reactant | fluoresceinamine | C1=CC2=C(C=C1N)C(=O)OC23C4=C(C=C(C=C4)O)OC5=C3C=CC(=C5)O | C20H13NO5
solvent | sodium borate | 200 mM | B([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | sodium borate | 200 mM | B([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | water | O | H2O
product | CSA | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
